US07259266B2
Step 3. Preparation of ethyl 8-methoxy-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 6-bromo-8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate (0.40 g, 1.05 mmole), trimethylboroxine (0.33 g, 2.63 mmole), Pd(PPh3)4 (0.13 g, 0.11 mmole) and K2CO3 (0.58 g, 4.20 mmole) in anhydrous DMF (5.0 mL) was heated to 90° C. under a dry N2 atmosphere for 18 hrs. The contents were poured into 2.4 N HCl (20 ml) and extracted with EtOAc (2×20 mL). The combined extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give a yellow oil which was subject to flash chromatography (silica gel) and eluted with 10% EtOAc/ hexanes to give a light yellow oil (0.23 g, 70%): GCMS m/z 316.0 (M+). 1H NMR (CDCl3/400 MHz) 7.64 (s, 1H), 6.74 (s, 1H), 6.63 (s, 1H), 5.70 (q, 1H, J=7.0 Hz), 4.28 (m, 2H), 3.85 (s, 3H), 2.26 (s, 3H), 1.32 (m, 3H).

reactant | ethyl 6-bromo-8-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.05 mmole, 0.40 g | BrC=1C=C2C=C(C(OC2=C(C1)OC)C(F)(F)F)C(=O)OCC | C14H12BrF3O4
reactant | trimethylboroxine | 2.63 mmole, 0.33 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 4.20 mmole, 0.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2.4 N, 20 ml | Cl | ClH
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.11 mmole, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 8-methoxy-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.23 g, 70% | COC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H15F3O4
